US09062092B2
Compound 107a. 2,2-Bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester
A vial was loaded with 2,2-bis-hydroxymethyl-but-3-enoic acid ethyl ester (0.88 g, 5.05 mmol), 1,3-difluoroacetone (0.95 g, 10.1 mmol) and para-toluene-4-sulfonic acid monohydrate (0.96 g, 5.05 mmol). The vial was sealed and heated in a microwave reactor at 100° C. for 15 min. The resultant brown oil was partitioned between dichloromethane and aqueous sodium bicarbonate solution. The organic layer was filtered through a hydrophobic frit and evaporated to give a brown oil (0.98 g). The oil was purified by silica gel chromatography using iso-hexanes/ethyl acetate 3:1 to yield the title compound (0.619 g, 74%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 1.31 (t, J=7.1 Hz, 3H), 3.96 (d, J=12.0 Hz, 2H), 4.27 (q, J=7.1 Hz, 2H), 4.34-4.69 (m, 6H), 5.22-5.35 (m, 2H), 5.67-5.79 (m, 1H).

reactant | 2,2-bis-hydroxymethyl-but-3-enoic acid ethyl ester | 5.05 mmol, 0.88 g | C(C)OC(C(C=C)(CO)CO)=O | C8H14O4
reactant | 1,3-difluoroacetone | 10.1 mmol, 0.95 g | FCC(=O)CF | C3H4F2O
product | 2,2-Bis-fluoromethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester | 0.98 g | C(C)OC(=O)C1(COC(OC1)(CF)CF)C=C | C11H16F2O4
